US04404214
0.48 g of 4-nitro-2-pyridinecarboxylic acid, 0.48 g of N,N'-carbonyldiimidazole and 0.27 g of 5-aminotetrazole are treated in the same manner as described in Example 2. The crude product thus obtained is recrystallized from ethanol, whereby 0.38 g of N-(5-tetrazolyl)-4-nitro-2-pyridinecarboxamide is obtained.

reactant | 4-nitro-2-pyridinecarboxylic acid | 0.48 g | [N+](=O)([O-])C1=CC(=NC=C1)C(=O)O | C6H4N2O4
reactant | 5-aminotetrazole | 0.27 g | NC1=NN=NN1 | CH3N5
product | N-(5-tetrazolyl)-4-nitro-2-pyridinecarboxamide | 0.38 g | N1N=NN=C1NC(=O)C1=NC=CC(=C1)[N+](=O)[O-] | C7H5N7O3
